US07700595B2
8-Methyl-3,4-diphenylcinnoline
1,2-Diphenylethane-1,2-dione (2-methylphenyl)-hydrazone (0.50 g, 1.59 mmol) was dissolved in 70% of sulfuric acid (10 mL) and the reaction was stirred at room temperature overnight. The reaction was poured into iced water and extracted with ethyl acetate. The combined organics was dried over MgSO4 and concentrated. The material was purified via column chromatography using 5-100% ethyl actetate in hexane as the eluent to yield 0.025 g of the title compound as an orange solid. MS (ESI) m/z 297([M+H]+); HRMS (ESI, [M+H]+) 297.1406.

reactant | 1,2-Diphenylethane-1,2-dione (2-methylphenyl)-hydrazone | 1.59 mmol, 0.50 g | CC1=C(C=CC=C1)NN=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H18N2O
reactant | water | O | H2O
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 8-Methyl-3,4-diphenylcinnoline | 0.025 g | CC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
